US05124326
3.2. 4-(3-Chloropropyl)benzylcyanide
In a 100 ml of round bottomed two-necked flask 4.4 g of NaCN, 18.2 g of 1-(4-chloromethylphenyl)3-chloropropane and 44.8 ml of 90% ethanol are added and boiled at reflux for 5 hours. The feedstock is cooled to room temperature and the precipitate is filtered by suction. The filtrate is concentrated by evaporation. The residue is absorbed in 700 ml of diethyl ether, washed to neutrality with 2×250 ml of distilled water and dried with sodium sulfate. The solution is evaporated to dryness in a rotary evaporator.

reactant | NaCN | 4.4 g | [C-]#N.[Na+]
reactant | 1-(4-chloromethylphenyl)3-chloropropane | 18.2 g | ClCC1=CC=C(C=C1)CCCCl | C10H12Cl2
solvent | ethanol | 44.8 ml | C(C)O | C2H6O
product | 4-(3-Chloropropyl)benzylcyanide | ClCCCC1=CC=C(CC#N)C=C1 | C11H12ClN
